US07622583B2
2-Chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethyl benzenesulfonylamino)-pyridine-2-carbonyl]-N,N-dimethyl-benzamide.
To a vial containing 2-chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethylbenzenesulfonyl amino)-pyridine-2-carbonyl] benzoic acid (24 mg, 0.04 mmol) were added HATU (19 mg, 0.05 mmol), DMF (0.5 mL), a 2.0 M solution of Me2NH in THF (40 μL, 0.08 mmol), and (i-Pr)2NEt (10 μL, 0.06 mmol). The solution was maintained at room temperature for 5 h. EtOAc (10 mL) was added, and the organic phase washed with saturated aqueous NaCl (1×5 mL), 0.1 N acetic acid in water (1×5 mL), and dried over MgSO4. The volatiles were removed in vacuo, and the resulting residue was purified by preparative HPLC (20→95% gradient of MeCN-H2O with 0.1% TFA) and the pure fractions lyophilized to afford the title compound (5 mg, 22% yield): HPLC retention time=2.90 minutes. MS (ES) [M+H]+ expected 580.0, found 579.9. 1H NMR (400 MHz, CDCl3) δ 10.94 (s, 1 H), 8.17-8.20 (m, 3H), 7.98 (dd, J=2.4, 8.4 Hz, 1 H), 7.64 (d, J=8.8 Hz, 1 H), 7.41 (d, J=4.4 Hz, 1 H), 7.28-7.30 (m, 2H), 3.12 (s, 3H), 2.86 (s, 3H)

reactant | 2-chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethylbenzenesulfonyl amino)-pyridine-2-carbonyl] benzoic acid | 0.04 mmol, 24 mg | ClC1=C(C(=O)O)C=CC=C1C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C20H10Cl3F3N2O5S
reactant | HATU | 0.05 mmol, 19 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Me2NH | N(C)C | C2H7N
reactant | THF | 0.08 mmol, 40 μL | C1CCOC1 | C4H8O
reactant | (i-Pr)2NEt | 0.06 mmol, 10 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethyl benzenesulfonylamino)-pyridine-2-carbonyl]-N,N-dimethyl-benzamide | 5 mg, 22% yield | ClC1=C(C(=O)N(C)C)C=CC=C1C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C22H15Cl3F3N3O4S
